US07390818B2
3-(2,4-Dicyanophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one
0.6 g of 3-(2-chloro-4-bromophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one is dissolved in 15 ml of NMP. 0.27 g of CuCN is added and then the mixture is heated at reflux for 5 hours. The reaction medium is poured onto CH2Cl2 and washing is carried out with a saturated NaCl solution. Purification is carried out by chromatography on a silica column eluted with an AcOEt/petroleum ether (v/v; 75/25) mixture and then pure AcOEt. The fractions recovered are washed with a 1N HCl solution to remove an NMP residue. 50 mg of the expected compound are obtained in the form of a powder.

reactant | 3-(2-chloro-4-bromophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one | 0.6 g | ClC1=C(C=CC(=C1)Br)C1=CC2=C(NC3=CC=C(C=C23)C)N(C1=O)C | C19H14BrClN2O
reactant | CuCN | 0.27 g | C(#N)[Cu]
reactant | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 3-(2,4-Dicyanophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one | 50 mg | C(#N)C1=C(C=CC(=C1)C#N)C1=CC2=C(NC3=CC=C(C=C23)C)N(C1=O)C | C21H14N4O
